US05688487
A. N-(Dimethylallyl)-2-nitroimidazole
Sodium bicarbonate (0.42 g, 50 mmol) and dimethylallyl bromide (3.28 g, 22 mmol) were added to a suspension of 2-nitroimidazole (2.26 g, 20 mmol) in dry acetonitrile (10 mL). The mixture was stirred under reflux for 16 hours. The solvent was removed under reduced pressure, and the residue was dissolved in ethyl acetate. The solution was filtered, and dried with anhydrous sodium sulfate. Removal of the solvent gave an oil which was recrystallized from petroleum ether (35°-50° C.). Yield 1.83 g, m.p. 48°-49° C. 1H NMR (CDCl3) δ7.24 (s, 1H), 7.22 (s, 1H), 5.46 (m, 1H), 5.1 (d, 2H), 1.93 (s, 3H) and 1.90 (s, 3H).

reactant | Sodium bicarbonate | 50 mmol, 0.42 g | C([O-])(O)=O.[Na+]
reactant | dimethylallyl bromide | 22 mmol, 3.28 g | CC(=CCBr)C | C5H9Br
reactant | 2-nitroimidazole | 20 mmol, 2.26 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(Dimethylallyl)-2-nitroimidazole | CC(=CCN1C(=NC=C1)[N+](=O)[O-])C | C8H11N3O2
